US04968829
To a mixture of 2-[4-(1-methylpropylthio)phenoxy]ethanol (4.26 g, 20.0 mmol) and triethylamine (4.2 ml, 30.0 mmol) in 100 ml methylene chloride at 0° is added dropwise methanesulfonyl chloride (1.7 ml, 22.0 mmol). The mixture is stirred at 0° for 20 min, after which it is poured into ice water. The methylene chloride layer is washed with ice water, with cold 10% sulfuric acid, with cold 5% sodium bicarbonate and with cold brine, dried and the solvent removed to give 2-[4-(1-methylpropylthio)phenoxy]ethyl methanesulfonate.

reactant | 2-[4-(1-methylpropylthio)phenoxy]ethanol | 20.0 mmol, 4.26 g | CC(CC)SC1=CC=C(OCCO)C=C1 | C12H18O2S
reactant | triethylamine | 30.0 mmol, 4.2 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 22.0 mmol, 1.7 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 2-[4-(1-methylpropylthio)phenoxy]ethyl methanesulfonate | CS(=O)(=O)OCCOC1=CC=C(C=C1)SC(CC)C | C13H20O4S2
